US06448260B2
(1RS ,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
Ethyl (RS)-1-(4-Methoxyphenyl)-3-(3,4-methylene-dioxyphenyl)indene-2-carboxylate. To a solution of ethyl (1RS)-1-hydroxy-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-indene-2-carboxylate (0.80 g, 1.9 mmol) in CH2Cl2 (10 ml) at 0° C. under an argon atmosphere was added triethylsilane (0.28 g, 2.4 mmol), followed by boron trifluoride etherate (1 ml, 8.1 mmol). The resulting solution was stirred at 0° C. for 10 min, and was then partitioned between EtOAc and 3M HCl. The organic extract was washed with saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacua, and the residue was filtered through a pad of silica gel, eluting with CH2CH2. The title compound (mixture of Δ1 and Δ2 double bond isomers) was obtained as a glassy, yellow solid (0.72 g, 94%).

reactant | ethyl (1RS)-1-hydroxy-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-indene-2-carboxylate | 1.9 mmol, 0.80 g | OC1(C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC)C2=CC=C(C=C2)OC | C26H22O6
reactant | triethylsilane | 2.4 mmol, 0.28 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 8.1 mmol, 1 ml | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (1RS ,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
